US06232310B1
3-Phenyl-4H-1,4-benzothiazine-2-carbonitrile 1,1-dioxide
A mixture of 3-phenyl-4H-1,4-benzothiazine-2-carbonitrile (0.10 g, prepared according to Liso et al., J. Heterocycl. Chem. 18, 279 (1981), Liso et al., Synthesis 1983, 755) and acetic acid (6 ml) was added to a stirred solution of potassium permanganate (88 mg) in water (10 ml) at ambient temperature. After 2 h, 3 h and 18 h additional amounts (25 mg, 40 mg and 40 mg) of potassium permanganate were added. Then a 40% solution of sodium hydrogensulfate (200 μl) was added. After stirring for ½ h the mixture was filtered through celite. The filtrate was extracted with ethyl acetate (2×25 ml). The combined extracts were dried over sodium sulfate, filtered and concentrated in vacuo to give a solid. Trituration with ethyl acetate (2 ml), filtration and drying gave the title compound as light yellow crystals. Yield 34 mg (38%); mp 286-289° C.; 1H-nmr(DMSO) δ (ppm): 12.21 (br, 1H), 8.07-7.97 (m, 1H), 7.84-7.5 (m, 8H); IR(KBr) ν (cm−1): 3298 (NH), 2198 (C≡N), 1598, 1554, 1514, 1476, 1433, 1301, 1171, 1154, 1136; MS m/e (rel. intensity): 282 (25 %, M+), 250 (4%), 218 (100%), 190 (15%), 115 (10%), 77 (10%).

reactant | 3-phenyl-4H-1,4-benzothiazine-2-carbonitrile | 0.10 g | C1(=CC=CC=C1)C1=C(SC2=C(N1)C=CC=C2)C#N | C15H10N2S
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
reactant | potassium permanganate | 88 mg | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | potassium permanganate | 25 mg | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sodium hydrogensulfate | 200 μl | S(=O)(=O)(O)[O-].[Na+]
solvent | water | 10 ml | O | H2O
product | 3-Phenyl-4H-1,4-benzothiazine-2-carbonitrile 1,1-dioxide | C1(=CC=CC=C1)C1=C(S(C2=C(N1)C=CC=C2)(=O)=O)C#N | C15H10N2O2S
